US06417200B1
D) 3-(4-t-butylbenzoylamino)-N-(3-cyanophenyl)thiophene-2-carboxamide
To a mixture of 2-(4-t-butylphenyl)-4H-thieno[3,2-d]-[1,3]oxazin-4-one (400 mg, 1.4 mmol), 3-aminobenzonitrile (165 mg, 1.4 mmol) and THF (5 mL) was added 0.5 M potassium hexamethyldisilazide in toluene (3.08 mL, 1.54 mmol) and stirred for 15 min. The reaction was added NH4Cl and ethyl acetate. The organic layer was washed with water (3×) and brine, MgSO4 dried and concentrated. The residue was chromatographed (20% THF/hexanes) to give the title compound as a solid (580 mg, 51%); 1.37 (s, 9H), 7.47 (m, 4H), 7.57 (d, 2H, J=8.4 HZ); 7.68 (m, 1H), 7.98 (d, 2H, J=8.4 Hz); 8.20 (s, 1H); 8.42 (d, 1H, J=5.7 Hz); 11.80 (s, 1H); MS(FD): 403.

reactant | 2-(4-t-butylphenyl)-4H-thieno[3,2-d]-[1,3]oxazin-4-one | 1.4 mmol, 400 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1OC(C2=C(N1)C=CS2)=O | C16H15NO2S
reactant | 3-aminobenzonitrile | 1.4 mmol, 165 mg | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | potassium hexamethyldisilazide | 0.5 M | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | toluene | 1.54 mmol, 3.08 mL | C1(=CC=CC=C1)C | C7H8
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(4-t-butylbenzoylamino)-N-(3-cyanophenyl)thiophene-2-carboxamide | 580 mg, 51% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(SC=C2)C(=O)NC2=CC(=CC=C2)C#N)C=C1 | C23H21N3O2S
